US04174397
(a) 2,5-Dichloro-1-indanone
Hydrogen chloride gas is passed into a solution of 10.11 g (60 mmoles) of 5-chloro-1-indanone in 50 ml of glacial acetic acid at 10°-15° C. for 30 minutes. 4.25 g (60 mmoles) of condensed chlorine are then allowed to flow slowly into the solution at 10° C. and the mixture is allowed to come gradually to room temperature and is subsequently stirred for 3 hours. After standing overnight, the solution is poured onto ice, the oil which separates out is extracted with acetic acid ethyl ester and the solvent is distilled off under reduced pressure. The oil which remains crystallizes on standing. The product can be recrystallized from petroleum ether and then melts at 63°-66° C.

reactant | Hydrogen chloride | Cl | ClH
reactant | 5-chloro-1-indanone | 60 mmoles, 10.11 g | ClC=1C=C2CCC(C2=CC1)=O | C9H7ClO
reactant | chlorine | ClCl | Cl2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 2,5-Dichloro-1-indanone | ClC1C(C2=CC=C(C=C2C1)Cl)=O | C9H6Cl2O
